US04355040
1 g of 1-benzyl-4-chloro-2-(3-methoxyphenyl)imidazole-5-acetic acid was boiled in 14 ml of 48% hydrobromic acid for 2 hours. The reaction solution was evaporated to dryness and, when water was added to the residue, there separated out white powder. The powder was dissolved in 10 ml of hot ethanol, and water was added to the solution until turbidity was developed. After allowing it to stand, there was obtained 0.8 g of 1-benzyl-4-chloro-2-(3-hydroxyphenyl)imidazole-5-acetic acid as colorless, prism-formed crystals, m.p. 220°-222° C.

reactant | 1-benzyl-4-chloro-2-(3-methoxyphenyl)imidazole-5-acetic acid | 1 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC(=O)O)Cl)C1=CC(=CC=C1)OC | C19H17ClN2O3
solvent | hydrobromic acid | 14 ml | Br | BrH
product | 1-benzyl-4-chloro-2-(3-hydroxyphenyl)imidazole-5-acetic acid | 0.8 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC(=O)O)Cl)C1=CC(=CC=C1)O | C18H15ClN2O3
